* C:\github\sample\ltspice\01_tutorial\02_lcr\02_RC_circuit\RC.asc
Voltage N001 0 PULSE(0 5 1m 0.001m 0.001m 1m 3m 2)
R N002 0 2k
C N002 N001 0.1µ
.tran 10m
.backanno
.end
