* C:\github\sample\ltspice\01_tutorial\02_lcr\01_RL_circuit\RL.asc
Voltage N001 0 PULSE(0 5 1m 0 0 2m 6m 2)
R N002 0 300
L N002 N001 100m Ipk=0 Rser=0 Rpar=0 Cpar=0
.tran 10m
.backanno
.end
